US04012377
3-(β-trans-p-chlorostyryl)-1,2,4-oxadiazole p-Chlorocinnamamidoxime (4.0 g.) was refluxed in triethylorthoformate (40 ml.) containing two drops of boron trifluoride etherate for 15 min. Thin layer chromatography after 5 mins. showed the reaction to be complete. The reaction mixture was evaporated in vacuo to a yellow solid which was dissolved in chloroform (100 ml.) and washed consecutively with 2N-hydrochloric acid (100 ml.), saturated sodium bicarbonate solution (100 ml.) and water (100 ml.). The chloroform solution was evaporated to dryness in vacuo and the yellow crystalline residue was recrystallised frm methanol to yield yellow crystalline platelets of 3-(β-trans-p-chlorostyryl)-1,2,4-oxadiazole, 3.33 g. (79%), m.p. 134°, λmax. (EtoH) 220-221, 280 nm., ε 14600, 30500, τ(CDCl3) 1,32 (1H), 2.58 (aromatic singlet), 2.30 (doublet, J=16 c./sec.), 2.92 (doublet, J=16 c./sec.) (Found: C, 57.9; H, 3.8; N, 13.3; Cl, 17.3. C10H7ClN2O requires C, 58.1; H, 3.4; N, 13.6; Cl, 17.2%).

reactant | 3-(β-trans-p-chlorostyryl)-1,2,4-oxadiazole p-Chlorocinnamamidoxime | 4.0 g | ClC1=CC=C(C=CC(N)=NO)C=C1.ClC1=CC=C(/C=C/C2=NOC=N2)C=C1
solvent | triethylorthoformate | 40 ml | C(C)OC(OCC)OCC | C7H16O3
catalyst | boron trifluoride etherate | two drops | B(F)(F)F.CCOCC
product | 3-(β-trans-p-chlorostyryl)-1,2,4-oxadiazole | ClC1=CC=C(/C=C/C2=NOC=N2)C=C1 | C10H7ClN2O
